US06310107B1
2-(N,N-Dimethylamino)methyl-6-(2-quinolyl)methoxytetralin Dihydrochloride
To a solution of 2-(N,N-dimethylamino)methyl-6-hydroxytetralin (153 mg, a free form of Reference Example 16) and 2-chloromethylquinoline hydrochloride (189 mg) in DMF (5 ml) was added potassium carbonate (260 mg) and the reaction mixture was stirred at room temperature for 26 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, dried, and concentrated. The residue was purified by alumina column chromatography (eluent: ethyl acetate:hexane=1:2) and then converted into its dihydrochloride, which was further recrystallized from methanol-ethyl acetate to obtain the titled compound (191 mg).

reactant | 2-(N,N-dimethylamino)methyl-6-hydroxytetralin | CN(C)CC1CC2=CC=C(C=C2CC1)O | C13H19NO
reactant | 2-chloromethylquinoline hydrochloride | 189 mg | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | potassium carbonate | 260 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(N,N-Dimethylamino)methyl-6-(2-quinolyl)methoxytetralin Dihydrochloride | 191 mg | Cl.Cl.CN(C)CC1CC2=CC=C(C=C2CC1)OCC1=NC2=CC=CC=C2C=C1 | InChI=1S/C23H26N2O.2ClH/c1-25(2)15-17-7-8-20-14-22(12-10-19(20)13-17)26-16-21-11-9-18-5-3-4-6-23(18)24-21;;/h3-6,9-12,14,17H,7-8,13,15-16H2,1-2H3;2*1H
